US06939928B1
(3) Synthesis of 3-(1,1,3-trimethylbutyl)-6,6-dimethylfulvene
To a solution of 3.00 g (18.3 mmol) of (1,1,3-trimethylbutyl)cyclopentadiene in 30 ml of methanol, 13.4 ml (182.5 mmol) of acetone and 3.1 ml (36.6 mmol) of pyrrolidine were added with ice cooling, followed by stirring at room temperature for one night. After the reaction solution was diluted with % 100 ml of ether, 50 ml of water was added. The organic phase was separated, washed with water and a saturated saline solution, then dried over anhydrous magnesium sulfate and filtered. From the filtrate, the solvent was removed under reduced pressure to obtain a liquid. The liquid was subjected to vacuum distillation (130° C./1 mmHg) to obtain 3.50 g (17.1 mmol) of a yellow liquid (yield: 94%). The analyzed values are given below.

reactant | (1,1,3-trimethylbutyl)cyclopentadiene | 18.3 mmol, 3.00 g | CC(CC(C)C)(C)C1=CC=CC1 | C12H20
reactant | acetone | 182.5 mmol, 13.4 ml | CC(=O)C | C3H6O
reactant | pyrrolidine | 36.6 mmol, 3.1 ml | N1CCCC1 | C4H9N
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 3-(1,1,3-trimethylbutyl)-6,6-dimethylfulvene | 17.1 mmol, 3.50 g, yield: 94% | CC(CC(C)C)(C)C=1C=CC(C1)=C(C)C | C15H24
